Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Eye Drops
 
Attending: ___.
 
Chief Complaint:
EKG changes
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
Patient is a ___ yo male with PMH of CAD who was recently 
admitted (___) for 4 vessel CABG after found to have 
severe CAD on cath in ___. He also had resection of LV 
outlet tumor which was found to be papillary fibroelastoma. He 
presented to his PCP's office today and had some mild shortness 
of breath and was feeling generally unwell. He began to feel 
somewhat unwell about 6 days ago at work when he missed work and 
had a blood sugar in the ___. He had some episodes of 
lightheadedness, which he thought was related to low blood 
sugar. He has also been dyspneic on exertion. He denied chest 
pain, palpitations, orthpnea, PND. An EKG was performed and 
showed ST depression in the lateral leads and ST elevations in 
R-sided leads. He was given aspirin 325 mg po x 1 was was sent 
to the ED for further management.  
.  
In the ED, initial vitals were AF, P: 72, BP: 115/72, RR: 18, 
99% on RA. EKG showed NSR with ST dep lateral leads, ST 
elevations in R sided leads. He was treated with heparin drip, 
integrillin and aspirin 325 mg po daily and was transferred to 
the CCU for further management.  
.  
On review of systems, he has had mild dry cough that has 
persisted since his surgery. He denies myalgias, joint pains, 
hemoptysis, red stools. He denies recent fevers, chills or 
rigors. All of the other review of systems were negative. 

 
Past Medical History:
Diabetes
Hypertension
Hypercholesterolemia  
Glaucoma
Past Surgical History:
s/p tonsillectomy at age ___
 
Social History:
___
Family History:
Father had CABG, Mother MI, Brother CAD
 
Physical ___:
VS: T=97.9 BP=135/70 HR= 72 RR=15 O2 sat= 99% on RA  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. MMM  
NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: obese, Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: well-circumscribed area of chronic induration over left 
medial calf, s/p graft site cellulitis, no sign of active 
infection, no erythema, no warmth  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+ 

 
Pertinent Results:
Admission Labs (___):
WBC-11.9* RBC-4.61# Hgb-11.4*# Hct-34.6* MCV-75* MCH-24.7* 
MCHC-32.9 RDW-13.4 Plt ___ PTT-31.1 ___
Glucose-140* UreaN-23* Creat-1.2 Na-137 K-4.2 Cl-102 HCO3-28 
AnGap-11

Cardiac Markers:
___ 08:28PM BLOOD cTropnT-0.51*
___ 03:04AM BLOOD CK-MB-4 cTropnT-0.45*
___ 10:52AM BLOOD CK-MB-3 cTropnT-0.49*
___ 09:11PM BLOOD CK-MB-3 cTropnT-0.55*
___ 06:50AM BLOOD CK-MB-4 cTropnT-0.64*

Other Labs:
___:50AM BLOOD %HbA1c-7.0* eAG-154*
___ 06:50AM BLOOD Triglyc-103 HDL-37 CHOL/HD-2.8 LDLcalc-46
___ 03:04AM BLOOD ALT-25 AST-25 LD(LDH)-204 CK(CPK)-72 
AlkPhos-61 TotBili-0.2

Imaging:
Cardiac Cath (___): Formal report pendings - reported 
findings below:
- LAD Occluded mid vessel after D1 takeoff. Mid diagonal 80% 
lesion.  
- LCX:  No angiographically-apparent CAD proximally with small 
OM1 widely patent.  OM2 has mid vessel 95% at touchdown of 
occluded SVG.  
- RCA:  Mild luminal irregularities with distal diffuse disease 
in the PDA and total occlusion with Right to right collaterals 
in a 1.5 mm. 
- SVG-OM1:  Occluded. 
- SVG-OM2: Occluded. 
- SVG-Diagonal:  Diffuse disease proximally 60-70%. 
- LIMA-LAD: Atretic to diffusely diseased small LAD 
.
ECHO (___):
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is moderate to 
severe regional left ventricular systolic dysfunction with 
anterior, septal and apical akinesis. The remaining segments 
contract normally (LVEF = ___. No masses or thrombi are seen 
in the left ventricle. Right ventricular chamber size and free 
wall motion are normal. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Moderate to severe regional left ventricular 
systolic dysfunction, c/w CAD. No LV thrombus. Mild mitral 
regurgitation.

Compared with the prior study (images reviewed) of ___, 
the findings are similar. 
.
Discharge Labs (___):
WBC-9.8 RBC-4.42* Hgb-10.6* Hct-32.6* MCV-74* MCH-24.0* 
MCHC-32.5 RDW-12.8 Plt ___
Glucose-174* UreaN-16 Creat-1.1 Na-134 K-4.4 Cl-99 HCO3-27 
AnGap-12
Calcium-9.9 Phos-3.5 Mg-1.9 Cholest-104
 
Brief Hospital Course:
ID: ___ yo male with PMH of CAD who was recently admitted 
(___) for 4 vessel CABG who presented with mild dyspnea 
on exertion and EKG changes with elevation of cardiac biomarkers 
concerning for graft stenosis no s/p cardiac catheterization 
yesterday . 
.  
# CORONARIES: Patient had known 4 vessel disease and was s/p 
bypass graft on ___. He had been recovering well until he 
began to feel somewhat unwell several days prior to admission. 
He also began to notice mild dyspnea on exertion without chest 
pain, orthopnea, PND. His dyspnea was thought to be his anginal 
equivalent. Given the fact that the patient's troponin was 
slightly elevated, a diagnossi of non-ST elevation MI was made.
.
Pt was given 600mg plavix load and mucomyst pre/post treatment 
for dye. Repeat cath on ___ revealed that the SVGs were 
occluded and that LIMA lead to diffusely diseased vessel 
unlikely to provide significant cardiac perfusion. During cath, 
balloned OM1. Per interventional cardiology, pt will need to 
return for another cath for stenting of SVG-diag in ___ weeks 
after acute changes from initial bypass have quieted down since 
the stenting will likely take place in one of the bypassed 
vessels. Whil in hospital pt continued on ASA and metoprolol at 
home doses. Lisinopril was increased from 10mg to 20mg daily and 
statin was changed to Rovastatin 20mg daily in order to optimize 
medical management. Unfortunately, the patient has had rather 
rapid failure of his bypass grafts.  
.  
# PUMP: Patient has known depressed systolic function (EF 
___. He has no signs of volume overload on admission. He was 
continued on home ACE-I and BB as noted above. Repeat TTE on 
___ showed anterior, septal and apical akinesis with 
depressed EF that was overal similar to prior ECHO but did not 
show hoped for improvement in systolic function after bypass.
.  
#Diabetes Mellitus II: Patient's last A1c was 7.1%. He has been 
managed at home with metformin 850 mg po tid and with insulin- 
novolin and novolog for his diabetes. He has had several 
episodes of hypoglycemia recently and his blood sugar may be too 
tightly controlled. While in house, we  decreased novolin from 
40 mg BID to 20 mg BID given recent low ___ and in light of that 
patient will be NPO for tomorrow's cath. Kept on ISS to cover 
high sugars and metformin held during hospitalization in light 
of cardiac cath and associated dye load. 
.  
# Hyperlipidemia: well controlled. last lipids well controlled 
on ___- TC 104, HDL 37, LDL 48. As above, statin changed to 
Rovastatin 20mg daily to optimize lipid reduction in setting of 
bad coronary disease with little available as interventional 
options and all efforts being made to optimize medical 
management. 
.
# Hypertension: currently well-controlled. Continued on home 
metoprolol and lisinopril. 

 
Medications on Admission:
- pravastatin 80 mg po daily  
- aspirin 81 mg Tablet PO DAILY  
- docusate sodium 100 mg po bid  
- Azopt (Brinzolamide) 1% Drops daily  
- Timolol maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic BID  

- metformin 1500 mg po daily  
- metoprolol tartrate 50 mg PO BID  
- Lisinopril 10 mg po daily  
- travoprost 0.004 % Drops Sig: One (1) Ophthalmic DAILY  
- Acetaminophen 650 mg po q4h prn pain.  
- NPH insulin 38-___ID  
- Humalog insulin sliding scale before meals and at bedtime  
- Iron  
- Vitamin D 1000 units daily  

 
Discharge Medications:
1. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. brinzolamide 1 % Drops, Suspension Sig: One (1)  Ophthalmic 
once a day.  
7. timolol maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  
8. metformin 500 mg Tablet Extended Rel 24 hr Sig: Three (3) 
Tablet Extended Rel 24 hr PO once a day.  
9. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. travoprost 0.004 % Drops Sig: One (1)  Ophthalmic daily ().  

11. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every six 
(6) hours as needed for pain.  
12. iron 325 mg (65 mg Iron) Tablet Sig: One (1) Tablet PO once 
a day.  
13. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO once a day.  
14. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain .
Disp:*30 Tablet, Sublingual(s)* Refills:*2*
15. Novolin N 100 unit/mL Suspension Sig: Thirty (30) units 
Subcutaneous twice a day: take at breakfast and dinner.  
16. Humalog 100 unit/mL Solution Sig: One (1) unit Subcutaneous 
three times a day with meals and bedtime: please follow attached 
sliding scale.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute coranary syndrome
Chronic Systolic Heart failure, EF 30%
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to EKG changes and 
shortness of breath. You were sent to the ICU and then had a 
cardiac catheterization, it showed imparment of the bypassed 
blood vessels in your heart. This is likely causing your 
symptoms. Changes to your medicaitons were made to better 
protect your heart, please see below. You will need a repeat 
catheterization in ___ weeks with Dr. ___. You will need to 
make a follow appointment with a cardiologist for the next ___ 
weeks. 

Please follow the instructions for care of your groin from your 
procedure.

The following changes were made to your medications:
-Lisinopril was increased to 20mg
-You were started on Rosuvastatin for your cholesterol instead 
of Pravastatin
-You were started on Clopidogrel (plavix)
-Decrease your NPH to 30 units twice a day
-Aspirin was increased to 325mg
 
Followup Instructions:
___